US07141583B2
(5R)-3-(4-((3S)-3-Aminopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
(5R)-3-(4-((3S)-3-(t-Butoxycarbonyl)aminopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one (1.55 g, 3.47 mM), was dissolved in dichloromethane (8 ml), and treated with a solution of hydrogen chloride in ethanol (3.8M, 40 ml). After stirring 2 hours at ambient temperature, the mixture was evaporated to dryness to give product as a hydrochloride of sufficient quality to require no purification (1.64 g).

reactant | (5R)-3-(4-((3S)-3-(t-Butoxycarbonyl)aminopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 3.47 mM, 1.55 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C21H27FN6O4
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | ethanol | 3.8M, 40 ml | C(C)O | C2H6O
product | (5R)-3-(4-((3S)-3-Aminopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | N[C@@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C16H19FN6O2
